US04994459
Step (2) Preparation of α-[(4-Aminophenoxy)methyl]-4-(2-pyrimidinyl)-1-piperazineethanol
α-[(4-Nitrophenoxy)methyl]-4-(2-pyrimidinyl)-1-piperazineethanol dihydrochloride (1.32 g, 3.68 mmol) was hydrogenated in a Parr reactor using 5% Pd/C (0.198 g, 15% by wt) in ethyl acetate (40 mL). After 5 hours, the mixture was filtered through solka floc and the filtrate was concentrated to afford 1.2 g (100%) of product as a pale oil of sufficient purity for use in the next step.

reactant | α-[(4-Nitrophenoxy)methyl]-4-(2-pyrimidinyl)-1-piperazineethanol dihydrochloride | 3.68 mmol, 1.32 g | Cl.Cl.[N+](=O)([O-])C1=CC=C(OCC(CN2CCN(CC2)C2=NC=CC=N2)O)C=C1
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.198 g | [Pd] | Pd
product | α-[(4-Aminophenoxy)methyl]-4-(2-pyrimidinyl)-1-piperazineethanol | 1.2 g, 100% | NC1=CC=C(OCC(CN2CCN(CC2)C2=NC=CC=N2)O)C=C1 | C17H23N5O2
